US05405851
A solution of a 3:1 mixture of N-(4-cyanophenyl)-N-(7,8-dihydro-1-naphthyl)-2,2,2-trifluoro acetamide and the corresponding 5,6-dihydro isomer (4.3 g, 13 mmol) and m-chloroperoxybenzoic acid (80-85%, 4.0 g, 19 mmol) (Aldrich) in methylene chloride (60 ml) was stirred for 50 minutes at room temperature. The solution was diluted with methylene chloride (100 ml), washed with saturated NaHCO3 solution (2×30 ml), dried (K2CO3), and concentrated in vacuo. The epoxide isomers were separated by chromatography on silica gel eluting with diethyl ether:hexane (7:13 to 9:11) and recrystallization of the enriched isomer from diethyl ether:hexane. The mother liquor was combined with some mixed fractions from the chromatography and purified by repeating the procedure. The combined solid was dried under high vacuum to give N-(4-cyanophenyl)-2,2,2-trifluoro-N-(1a,2,3,7b -tetrahydronaphth[1,2-b]oxiren-4-yl)acetamide (2.8 g). 1H NMR (CDCl3, 200 MHz) δ: 1.69 (dt, J=14,5 Hz, 1H, CH2), 2.03-2.25 (m, 1H, CH2), 2.31-2.69 (m, 2H, CH2), 3.70-3.78 (m, 1H, OCH), 3.90 (d, J=4 Hz, 1H, OCH), 7.29-7.42 (m, 4H, Ar), 7.50-7.60 (m, 1H, Ar), 7.63 (d, J=9 Hz, 2H, Ar). Anal. Calculated for C19H13F3N2O2 : C, 63.69; H, 7.82. Found: C, 63.70; H, 3.66; N, 7.76.

reactant | N-(4-cyanophenyl)-N-(7,8-dihydro-1-naphthyl)-2,2,2-trifluoro acetamide | C(#N)C1=CC=C(C=C1)N(C(C(F)(F)F)=O)C1=CC=CC=2C=CCCC12 | C19H13F3N2O
reactant | m-chloroperoxybenzoic acid | 19 mmol, 4.0 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | N-(4-cyanophenyl)-2,2,2-trifluoro-N-(1a,2,3,7b -tetrahydronaphth[1,2-b]oxiren-4-yl)acetamide | 2.8 g | C(#N)C1=CC=C(C=C1)N(C(C(F)(F)F)=O)C1=C2CCC3C(O3)C2=CC=C1 | C19H13F3N2O2
